US05886174
50 g of (II) (0.257 mol) are dissolved in 350 ml of water. 132.5 g of diethylenetriamine (1.285 mol) are added and pH adjusted to 8 with conc. HCl (265 g). The resulting solution is refluxed for 24 h, then cooled, alkalinized with NaOH in pellets, concentrated under vacuum to a residual weight of 350 g and extracted (I) with toluene. The combined organic extracts are concentrated to an about 90 mL volume and left to crystallize. 31.5 g of high quality 1,4,7,10-tetraazacyclododecane are obtained (GC titre: 99.5%). Yield. 71%.

reactant | diethylenetriamine | 1.285 mol, 132.5 g | NCCNCCN | C4H13N3
reactant | HCl | 265 g | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 350 ml | O | H2O
product | 1,4,7,10-tetraazacyclododecane | 31.5 g | N1CCNCCNCCNCC1 | C8H20N4
